US07119120B2
2-Chloro-N-(2-hydroxy-4-trifluoromethoxy-benzyl)-acetamide
3-(Trifluoromethoxy)phenol (4.827 g, 27 mmol) was dissolved in glacial acetic acid (20 mL). The mixture was cooled in an ice bath between 14–17° C. and concentrated sulfuric acid (2 mL) was slowly added keeping the temperature below 20° C. The mixture was cooled below 10° C. and N-hydroxymethyl-2-chloroacetamide (3.52 g, 28.5 mmol) was added. The mixture was warmed slowly to room temperature and stirred overnight. The mixture was then poured slowly into ice (200 mL) and the pH was adjusted to ˜4–5 with KOH pellets, keeping the temperature below 5° C. The reaction mixture was warmed to room temperature and extracted twice with ethyl acetate (150 mL). The organic layer was collected and washed with NaHCO3 (sat., 30 mL). The organic layer was dried over MgSO4, filtered and the solvent removed to dryness. The mixture was purified by column chromatography (SiO2, 700 mL) using an eluent of hexane/ethyl acetate (10/2). Recovery: 2.42 g (33.8% yield). 1H NMR (DMSO) δ=10.23 (1H, s), 8.56 (1H, st), 7.16–7.14 (1H, sd), 6.71–6.70 (2H, br), 4.18–4.17 (2H, d), 4.08 (2H, s).

reactant | 3-(Trifluoromethoxy)phenol | 27 mmol, 4.827 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | N-hydroxymethyl-2-chloroacetamide | 28.5 mmol, 3.52 g | OCNC(CCl)=O | C3H6ClNO2
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-N-(2-hydroxy-4-trifluoromethoxy-benzyl)-acetamide | 33.8% yield | ClCC(=O)NCC1=C(C=C(C=C1)OC(F)(F)F)O | C10H9ClF3NO3
